US06008212
4-(2-Acetoxy-ethyl)-naphthalene-1-sulfonyl chloride (76.96 g, 246 mmol) was added portionwise over 12 minutes to 90% nitric acid (154 mL, 3.278 mol) cooled in an ice-methanol bath (-20° C.). After the addition was complete, the reaction mixture was stirred at -20° C. for an additional 15 minutes. The reaction mixture was partitioned between ice water (800 mL) and chloroform (800 mL). The aqueous layer was extracted with chloroform (100 mL). The combined organic layers were washed with brine (400 mL, 200 mL), then dried over magnesium sulfate, filtered, and evaporated to a golden oil. Diethyl ether (300 mL) was added to the crude product and the mixure was shaken vigorously to afford an off-white solid. The solid was collected by filtration, washed with ether (2×50 mL), and dried under vacuum to afford 4-(2-acetoxyethyl)-8-nitro-naphthalene-1-sulfonyl chloride (41.85 g) as an off-white solid.

reactant | 4-(2-Acetoxy-ethyl)-naphthalene-1-sulfonyl chloride | 246 mmol, 76.96 g | C(C)(=O)OCCC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C14H13ClO4S
reactant | nitric acid | 3.278 mol, 154 mL | [N+](=O)(O)[O-] | HNO3
product | 4-(2-acetoxyethyl)-8-nitro-naphthalene-1-sulfonyl chloride | 41.85 g | C(C)(=O)OCCC1=CC=C(C2=C(C=CC=C12)[N+](=O)[O-])S(=O)(=O)Cl | C14H12ClNO6S
